US04308391
A mixture of 10.5 g (0.05 mole) of ethyl p-fluorobenzoylacetate, 6.7 g (0.05 mole) of sulfuryl chloride and 30 ml. of chloroform was held at reflux for 18 hours and cooled. The chloroform solution was washed with water, dried (MgSO4) and concentrated under reduced pressure. The residue was distilled to give 10.8 g (88%) of ethyl 2-chloro-(p-fluoro)-benzoylacetate as an oil. A mixture of 10.8 g (0.441 mole) of ethyl 2-chloro-(p-fluoro)-benzoylacetate, 3.36 g (0.0441 mole) of thiourea, 20 ml. of water and 10 ml. of ethanol was held at reflux for 3 hours. Ethanol was removed under reduced pressure. The residue was made basic with saturated sodium bicarbonate. The solid was filtered, washed with water and recrystallized from ethanol to give 8.9 g (76%) of ethyl 2-amino-4-(p-fluorophenyl)-5-thiazolecarboxylate as white prisms, m.p. 205°-208° C.

reactant | ethyl 2-chloro-(p-fluoro)-benzoylacetate | 0.441 mole, 10.8 g | ClC1=C(C(=O)CC(=O)OCC)C=CC(=C1)F | C11H10ClFO3
reactant | thiourea | 0.0441 mole, 3.36 g | NC(=S)N | CH4N2S
reactant | water | O | H2O
solvent | ethanol | C(C)O | C2H6O
product | ethyl 2-amino-4-(p-fluorophenyl)-5-thiazolecarboxylate | 8.9 g, 76% | NC=1SC(=C(N1)C1=CC=C(C=C1)F)C(=O)OCC | C12H11FN2O2S
